US07723336B2
p-Phenetidine (3.09 g, 22.51 mmol) was added to a mixture of 4-chloro-2-(methylthio)pyrazolo[1,5-a][1,3,5]triazine (300 mg, 1.5 mmol) from 1d in 1,4-dioxane (6 mL). The mixture was heated to 100° C. for ½ hour. Water (15 mL) was then added to the reaction mixture and the resulting precipitate was collected by vacuum filtration, washed with cold water and hexane, and then air dried to give 360 mg (80%) of N-(4-ethoxyphenyl)-2-(methylthio)pyrazolo[1,5-a][1,3,5]triazin-4-amine.

reactant | p-Phenetidine | 22.51 mmol, 3.09 g | CCOC=1C=CC(=CC1)N | C8H11NO
reactant | 4-chloro-2-(methylthio)pyrazolo[1,5-a][1,3,5]triazine | 1.5 mmol, 300 mg | ClC1=NC(=NC=2N1N=CC2)SC | C6H5ClN4S
reactant | Water | 15 mL | O | H2O
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | N-(4-ethoxyphenyl)-2-(methylthio)pyrazolo[1,5-a][1,3,5]triazin-4-amine | 360 mg, 80% | C(C)OC1=CC=C(C=C1)NC1=NC(=NC=2N1N=CC2)SC | C14H15N5OS
